US09056859B2
methyl (6-aminopyridin-2-yl)acetate {6-[(diphenylmethylidene)amino]pyridin-2-yl}acetate (13 g, 3.93 mmol) was dissolved in 1:1 mixture of THF/water (20 mL) and treated with 4.5 mL of a 1N aqueous hydrochloric acid solution. The reaction was allowed to stir at ambient temperature for 30 minutes and then concentrated in vacuo. The crude residue was dissolved in DCM and washed with a saturated aqueous sodium bicarbonate solution. The organic layers were dried over sodium sulfate, filtered and concentrated to afford crude methyl (6-aminopyridin-2-yl)acetate which, was used without further purification. LC/MS (M+H)+167. Step C: methyl [6-(1H-tetrazol-1-yl)pyridin-2-yl]acetate

reactant | methyl (6-aminopyridin-2-yl)acetate {6-[(diphenylmethylidene)amino]pyridin-2-yl}acetate | 3.93 mmol, 13 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC1=CC=CC(=N1)CC(=O)O.NC1=CC=CC(=N1)CC(=O)OC
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF water | 20 mL | C1CCOC1.O
product | methyl (6-aminopyridin-2-yl)acetate | NC1=CC=CC(=N1)CC(=O)OC | C8H10N2O2
